US06211215B1
In substantially the same manner as in Reference Example 47, 3-furancarboxamide was reacted with 1,3-dichloroacetone to give 4-chloromethyl-2-(3-furyl)oxazole. The yield was 44%. Recrystallization from diethyl ether-hexane gave colorless prisms. mp 70-71° C.

reactant | 3-furancarboxamide | O1C=C(C=C1)C(=O)N | C5H5NO2
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(3-furyl)oxazole | yield was 44% | ClCC=1N=C(OC1)C1=COC=C1 | C8H6ClNO2
